US05869492
A mixture of 3-(bromoacetyl)benzo[b]thiophen-5-carbonitrile (1.05 g), 2-imidazolidinethione (0.4 g), ethanol (31.5 ml), and acetic acid (21 ml) was heated under reflux under nitrogen for 24 hours, then cooled in ice. The resulting precipitate was collected by filtration, washed with ether, and dried in vacuo at 65° C. to give 3-(5,6-dihydroimidazo[2,1-b]thiazol-3-yl)benzo[b]thiophen-5-carbonitrile monohydrobromide as a white solid (1 g), m.p. 303°-305° C.

reactant | 3-(bromoacetyl)benzo[b]thiophen-5-carbonitrile | 1.05 g | BrCC(=O)C=1C2=C(SC1)C=CC(=C2)C#N | C11H6BrNOS
reactant | 2-imidazolidinethione | 0.4 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 31.5 ml | C(C)O | C2H6O
solvent | acetic acid | 21 ml | C(C)(=O)O | C2H4O2
product | 3-(5,6-dihydroimidazo[2,1-b]thiazol-3-yl)benzo[b]thiophen-5-carbonitrile monohydrobromide | 1 g | Br.S1C=2N(C(=C1)C=1C3=C(SC1)C=CC(=C3)C#N)CCN2 | InChI=1S/C14H9N3S2.BrH/c15-6-9-1-2-13-10(5-9)11(7-18-13)12-8-19-14-16-3-4-17(12)14;/h1-2,5,7-8H,3-4H2;1H
